US08067408B2
Keep the solution of 5-amino-2-methylbenzonitrile (2.0 g, 15.1 mmol) dissolved in water (24 mL) and HBr (74%, 14.4 mL) stirring for 20 min, then the mixture was cooled to 0˜5° C., and the solution of NaNO2 (1.2 g, 17.4 mmol) in water (13.5 mL) was added. The reaction mixture was stirred for 10 min at 0˜5° C., then was warmed to 40° C. A solution of CuBr (6.5 g, 45.1 mmol) in water (36 mL) and HBr (7.2 mL) was added to the mixture, and it was stirred for 2 h. The mixture was extracted with AcOEt, and the organic layer was washed with saturated NaHCO3 solution, brine, and dried over Na2SO4. The crude product was purified by flask chromatograph (PE:EA=50:1), obtaining 2.3 g of 5-bromo-2-methylbenzonitrile as a white solid (Yield: 77%). 1H NMR (400 MHz, CDCl3): δ 7.72 (s, 1 H), 7.59 (d, J=8.0 Hz, 1 H), 7.19 (d, J=8.0 Hz, 1 H), 2.51 (s, 3 H).

reactant | 5-amino-2-methylbenzonitrile | 15.1 mmol, 2.0 g | NC=1C=CC(=C(C#N)C1)C | C8H8N2
reactant | NaNO2 | 17.4 mmol, 1.2 g | N(=O)[O-].[Na+]
reactant | HBr | 7.2 mL | Br | BrH
reactant | HBr | 14.4 mL | Br | BrH
solvent | water | 24 mL | O | H2O
solvent | water | 13.5 mL | O | H2O
solvent | water | 36 mL | O | H2O
product | 5-bromo-2-methylbenzonitrile | 2.3 g, Yield: 77% | BrC=1C=CC(=C(C#N)C1)C | C8H6BrN
